US06538004B2
Methyl[(1,1-dimethyl-2-propynyl)oxy]acetate
A mechanically stirred suspension of sodium hydride (60% dispersion in mineral oil, 10.0 g, 0.25 mol) in THF (170 mL) at 0° C. under N2 gas was treated with 2-methyl)-3-butyn-2-ol (29.1 mL, 0.30 mol) in THF (70 mL) dropwise. After stirring at 0° C. for 1 hour, the reaction mixture was treated with methyl bromoacetate (35.5 mL, 0.38 mol) in THF (100 mL). After stirring at ambient temperature overnight, the mixture was quenched into 1 M HCl (300 mL) and extracted with ethyl acetate (3×300 mL). The organic layers were combined, dried over Na2SO4, and concentrated to half the volume. The residue was distilled by vacuum distillation (bp. 118-120° C./20 mmHg) to provide the tittle compound (10.0 g). 1H NMR (CDCl3) δ 1.52 (s, 6H), 2.47 (s, 1H), 3.77 (s, 3H), 4.25 (s, 2H).

reactant | sodium hydride | 0.25 mol, 10.0 g | [H-].[Na+]
reactant | 3-butyn-2-ol | 0.30 mol, 29.1 mL | CC(C#C)O | C4H6O
reactant | methyl bromoacetate | 0.38 mol, 35.5 mL | BrCC(=O)OC | C3H5BrO2
reactant | THF | 170 mL | C1CCOC1 | C4H8O
reactant | THF | 70 mL | C1CCOC1 | C4H8O
reactant | THF | 100 mL | C1CCOC1 | C4H8O
product | Methyl[(1,1-dimethyl-2-propynyl)oxy]acetate | 10.0 g | COC(COC(C#C)(C)C)=O | C8H12O3
